US06667301B2
To a suspension of ethyl-[(S)-2-(4-methylsulfanylphenyl)-1-methylethyl]-amine hydrochloride (0.25 g, 1 mmole) in 1,2-dichloroethane (10 mL) was added triethylamine (0.2 mL, 1.5 mmole). To this mixture was added 4-(2-oxo-[1,3]oxazinan-3-yl)butyraldehyde (0.18 g, 1.05 mmole) and sodium triacetoxyborohydride (0.32 g, 1.5 mmole). The reaction mixture was stirred at room temperature for 15 hours, concentrated, and the residue was partitioned between 5% sodium hydroxide (5 mL) and diethyl ether (20 mL). The organic phase was dried (magnesium sulfate) and concentrated to give 3-(4-{ethyl-[(S)-2-(4-methylsulfanyl-phenyl)-1-methylethyl]amino}butyl)-[1,3]oxazinan-2-one, (0.33 g,) as a viscous oil.

reactant | ethyl-[(S)-2-(4-methylsulfanylphenyl)-1-methylethyl]-amine hydrochloride | 1 mmole, 0.25 g | Cl.C(C)N[C@H](CC1=CC=C(C=C1)SC)C
reactant | triethylamine | 1.5 mmole, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-oxo-[1,3]oxazinan-3-yl)butyraldehyde | 1.05 mmole, 0.18 g | O=C1OCCCN1CCCC=O | C8H13NO3
reactant | sodium triacetoxyborohydride | 1.5 mmole, 0.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 3-(4-{ethyl-[(S)-2-(4-methylsulfanyl-phenyl)-1-methylethyl]amino}butyl)-[1,3]oxazinan-2-one | C(C)N(CCCCN1C(OCCC1)=O)[C@H](CC1=CC=C(C=C1)SC)C | C20H32N2O2S
